US06515011B2
EDC (80.2 mg, 0.42 mmol) was added to a stirred mixture of 5-chloro-2-[(3,3-difluoroazetidin-1-yl)methyl]benzylamine (68.8 mg, 0.28 mmol), N-BOC-L-proline (60.0 mg, 0.28 mmol) and HOAT (19.0 mg, 0.14 mmol) in DMF (2.5 mL). After 66 h the reaction mixture was concentrated and the residue was partitioned between EtOAc and 10% NaHCO3. The organic layer was washed with water and brine, dried (Na2SO4) and evaporated. The residue was purified by chromatography on silica (eluting with EtOAc/CHCl3, 1:5) to give N-{5-chloro-2-[(3,3-difluoroazetidin-1-yl)methyl]benzyl}-1-(tert-butoxycarbonyl)-L-prolinamide (64.2 mg) as a glass: MS: 444.4 (M+1).

reactant | EDC | 0.42 mmol, 80.2 mg
reactant | 5-chloro-2-[(3,3-difluoroazetidin-1-yl)methyl]benzylamine | 0.28 mmol, 68.8 mg | ClC=1C=CC(=C(CN)C1)CN1CC(C1)(F)F | C11H13ClF2N2
reactant | N-BOC-L-proline | 0.28 mmol, 60.0 mg | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | HOAT | 0.14 mmol, 19.0 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | N-{5-chloro-2-[(3,3-difluoroazetidin-1-yl)methyl]benzyl}-1-(tert-butoxycarbonyl)-L-prolinamide | 64.2 mg | ClC=1C=CC(=C(CNC([C@H]2N(CCC2)C(=O)OC(C)(C)C)=O)C1)CN1CC(C1)(F)F | C21H28ClF2N3O3
